US07625908B2
N1-{(2R)-2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]propyl}-N2,N2-dimethylglycinamide
The procedure described in Example 3 was repeated using N1-[(2R)-2-({4-[(3-chloro-4-hydroxyphenyl)amino]quinazolin-5-yl}oxy)propyl]-N2,N2-dimethylglycinamide and picolyl chloride hydrochloride to give the title compound in 59% yield; NMR spectrum (CDCl3) 1.47 (d, 3H), 2.11 (s, 6H), 2.88 (s, 2H), 3.50-3.63 (m, 1H), 3.64-3.78 (m, 1H), 4.76-4.90 (m, 1H), 5.23 (s, 2H), 6.92-7.00 (m, 2H), 7.13-7.19 (m, 1H), 7.36-7.49 (m, 2H), 7.52-7.72 (m, 4H), 7.90 (d, 1H), 8.55 (m, 2H), 9.82 (s, 1H); Mass spectrum MH+ 521.0.

reactant | N1-[(2R)-2-({4-[(3-chloro-4-hydroxyphenyl)amino]quinazolin-5-yl}oxy)propyl]-N2,N2-dimethylglycinamide | ClC=1C=C(C=CC1O)NC1=NC=NC2=CC=CC(=C12)O[C@@H](CNC(CN(C)C)=O)C | C21H24ClN5O3
reactant | picolyl chloride hydrochloride | Cl.N1=C(C=CC=C1)CCl
product | N1-{(2R)-2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]propyl}-N2,N2-dimethylglycinamide | 59% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)O[C@@H](CNC(CN(C)C)=O)C | C27H29ClN6O3
